US06380215B1
To a solution of ethyl 3-azido-2(S)-(tert-butoxycarbonylamino)propionate (0.5 g) in ethyl acetate (5 ml) was added 4N HCl in ethyl acetate (5 ml) at 0° C. After stirring at room temperature for 2 hours, the mixture was evaporated in vacuo. The residue was recrystallized from diethyl ether to give ethyl 2(S)-amino-3-azidopropionate hydrochloride (0.3 g).

reactant | ethyl 3-azido-2(S)-(tert-butoxycarbonylamino)propionate | 0.5 g | N(=[N+]=[N-])C[C@@H](C(=O)OCC)NC(=O)OC(C)(C)C | C10H18N4O4
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2(S)-amino-3-azidopropionate hydrochloride | 0.3 g | Cl.N[C@H](C(=O)OCC)CN=[N+]=[N-] | InChI=1S/C5H10N4O2.ClH/c1-2-11-5(10)4(6)3-8-9-7;/h4H,2-3,6H2,1H3;1H/t4-;/m0./s1
